US05663200
44e) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3,4-methylenedioxyphenyl)methyl]hexanoic acid
A solution of 271 mg of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-methylenedioxyphenyl)methyl]hexanoic acid in 2.13 ml of DMF is treated, while being stirred, with 338 mg of imidazole and 415 mg of tert-butyldimethylchlorosilane. After having been stirred at RT for 20 h, the reaction solution is poured onto ice-water, and this mixture is extracted with ethyl acetate. The organic phase is washed with 10% citric acid solution and saline. A crude product is obtained which is dissolved in 7.13 ml of methanol and 2.75 ml of THF, with this solution then being treated, at RT, with a solution of 485 mg of potassium carbonate in 2.75 ml of water. The reaction mixture is stirred at RT for 2 h, concentrated down to approximately half its volume and poured onto 10% citric acid solution and ice; this mixture is then extracted with ethyl acetate. The organic phase is washed with (cold) saline. After drying over sodium sulfate, the solvent is evaporated and the residue is chromatographed on silica gel (eluent C), and the title compound is obtained. TLC Rf (C)=0.27. FAB-MS (M+H)+ =572.

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-methylenedioxyphenyl)methyl]hexanoic acid | 271 mg | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC2=C(C=C1)OCO2)O)CC2=CC=CC=C2 | C25H31NO7
reactant | imidazole | 338 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 415 mg | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | potassium carbonate | 485 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.13 ml | CN(C)C=O | C3H7NO
solvent | methanol | 7.13 ml | CO | CH4O
solvent | THF | 2.75 ml | C1CCOC1 | C4H8O
solvent | water | 2.75 ml | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(3,4-methylenedioxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC2=C(C=C1)OCO2)O[Si](C)(C)C(C)(C)C)CC2=CC=CC=C2 | C31H45NO7Si
